Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Chest pain 
 
Major Surgical or Invasive Procedure:
cardiac catheterization ___
cardiac catheterization with DES to LCx with impella support 
___

 
History of Present Illness:
This is a ___ year old male with a history of multivessel CAD 
(LAD, LCX, D1, OM1, RCA; has refused CABG), HTN, DMII, who 
presented today to the ED with new onset chest pain radiating 
down both arms and EKG changes.  
 He has stable angina with walking several walks that generally 
improves with rest and nitroglycerin. The patient notes that 
this has been worsening recently, and that he has been getting 
prolonged angina attacks at least 4 times a week. He has 
multivessel CAD and has been advised to undergo a CABG, but he 
has preferred to avoid surgery and has been managed medically. 
He takes clopidogrel, which he stopped four days prior to 
presentation due to a scheduled colonoscopy. On the day of 
admission, he presented to the pre-procedure area of the 
colonoscopy suite complaining of chest pain x 1 hour.  
 The procedure was cancelled, and the patient was given 
nitroglycerin and aspirin with some relief. He was sent to the 
ED.  
 In the ED initial vitals were:  
 98.1 HR: 100 BP: 144/84 Resp: 20 O(2)Sat: 99 Normal  
 Exam was unremarkable.  
 EKG was sinus tachycardia to 100bpm with ST elevations in aVR 
and ST depressions diffusely in other leads, new from prior.  
 A code STEMI was called and cardiology evaluated the patient. A 
repeat EKG minutes later notable for resolution of ST 
elevations. Patient asymptomatic. Posterior leads were negative. 
First troponin <0.01  
 Next steps were discussed with patient and he refused both CABG 
and cath and preferred medical management. He was placed on 
nitro and heparin gtts. The nitro gtt was d/c'd due to lack of 
symptoms, and he was transferred to the floor on heparin 800 
units/h.  
 Vitals on transfer: T 98.2 BP 192/92 HR 98 RR 18 O2 100% RA  
 On the floor, the patient confirms the above HPI. He denies 
chest pain, dyspnea, dizziness, presyncope, and edema. Notably, 
he skipped his usual morning meds ISO getting the colonoscopy, 
so has not had any of his usual meds today.  
 Repeat BP 160/80, HR 88. After further questioning, he is still 
declining CABG/Cath, but is thinking about it.  
 REVIEW OF SYSTEMS:  
 Cardiac review of systems is notable for dyspnea on exertion, 
paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, syncope, or presyncope.  
 On further review of systems, denies any prior history of 
stroke, TIA, deep venous thrombosis, pulmonary embolism, 
bleeding at the time of surgery, myalgias, joint pains, cough, 
hemoptysis, black stools or red stools. Denies exertional 
buttock or calf pain. Denies recent fevers, chills or rigors. 
All of the other review of systems were negative.  

 
Past Medical History:
 1. CARDIAC RISK FACTORS  
 - Diabetes  
 - Hypertension  
 - Dyslipidemia  
 2. CARDIAC HISTORY  
 - CAD, multivessel- Cath ___ w 80% LAD, mid ___, and 
distal 70-80%; 80% D1, 70% proximal LCX; 70-80% OM1, and 70-80% 
proximal RCA disease. Bypass surgery has been recommended and  
 he has preferred to avoid. Has had a stable anginal pattern 
with chest  
 discomfort every month or so if he walks several blocks after  
 eating. Resolves promptly with a single nitroglycerin -no 
change  
 in pattern. He has found that if he takes the nitroglycerin  
 prior to these walks, chest discomfort is minimal or absent  
 - PERCUTANEOUS CORONARY INTERVENTIONS: None  
 - PACING/ICD: None  
 3. OTHER PAST MEDICAL HISTORY  
 - Lumbar radiculopathy with hx of left foot, now almost 
resolved.  
 - Recent weight loss
 
Social History:
___
Family History:
Parents are both deceased. Father (died in car accident); Mother 
___ years; stroke  
A half-brother died of melanoma (age ___, another died  
of a myocardial infarction (age ___. A half sister has a nerve  
problem. He has 5 children.  

 
Physical Exam:
PHYSICAL EXAMINATION AT ADMISSION:  
 T 98.2 BP 192/92 HR 98 RR 18 O2 100% RA, repeat BP 160/80, HR 
88  
 GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
 HEENT: NCAT. Sclera anicteric EOMI. Conjunctiva were pink, no 
pallor or cyanosis of the oral mucosa.  
 NECK: Supple  
 CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills, lifts.  
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
 ABDOMEN: Soft, NTND.  
 EXTREMITIES: Normal peripheral pulses, no edema. Warm and well 
perfused.  
 SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 PULSES: Distal pulses palpable and symmetric  

PHYSICAL EXAM AT DISCHARGE
97.8
PO 112 / 71 67 18 99 Ra 

 GENERAL: NAD. pleasant and cooperative. Mood, affect 
appropriate. 
 HEENT: NCAT. Sclera anicteric EOMI grossly
 NECK: Supple  
 CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills, lifts.  
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi in anterior fields bilaterally.  
 ABDOMEN: Soft, NTND.  
 EXTREMITIES: groin dressings c/d/I; no hematoma or bruit. Warm 
distally with palpable DPs. 

 
Pertinent Results:
LABS AT ADMISSION
======================
___ 12:03PM BLOOD WBC-9.6# RBC-4.00* Hgb-12.8* Hct-36.7* 
MCV-92 MCH-32.0 MCHC-34.9 RDW-13.1 RDWSD-43.1 Plt ___
___ 07:24PM BLOOD ___ PTT-150* ___
___ 12:03PM BLOOD Glucose-249* UreaN-11 Creat-1.0 Na-143 
K-3.9 Cl-104 HCO3-26 AnGap-17
___ 12:03PM BLOOD cTropnT-<0.01
___ 07:24PM BLOOD CK-MB-9 cTropnT-0.18*
___ 04:26AM BLOOD CK-MB-9 cTropnT-0.30*
___ 10:50AM BLOOD CK-MB-7 cTropnT-0.18*

PERTINENT IMAGING AND PROCEDURES
===================================
Cath ___
Coronary Anatomy
Dominance: Right
LMCA: The LMCA was heavily calcified and long with a distal 40% 
stenosis..
LAD: The LAD was stump occluded proximally after a high D1. The 
LAD was heavily calcified. The modest caliber branching high D1 
had an origin 80% stenosis and a 75% stenosis at its distal 
bifurcation.
LCX: The proximal CX was heavily calcified. There was an ostial 
80% stenosis prior to a ___nd a small OM1. The 
proximal-mid CX had a S curve. The OM2 (after the S curve) had 
an origin
60-70% stenosis and supplied 2 tortuous distal poles. The distal 
AV groove CX after OM2 had disease to 70% and supplied a 
tortuous small LPL2.
RCA: The RCA was heavily calcified. The proximal RCA was 
diffusely diseased with a proximal 85% stenosis extending down 
to the mid RCA to 60%. The mid-distal RCA had a 50% stenosis. 
There were
collaterals from the RPDA to the apical LAD. RPL1 had 
mild-moderate diffuse disease to 40%. RPL2 was tiny. The distal 
AV groove RCA extended well up the LV and gave off a tortuous 
modest caliber RPL3.
There were multiple septal collaterals towards the LAD, but the 
calcified shell of the LAD was not well opacified, suggestive of 
serial total occlusions in the LAD.

Impressions:
1. Severe calcific three vessel coronary artery with a 
chronically (and likely serially) occluded LAD that
never filled well via collaterals, a doubly retroflexed proximal 
CX with an ostial stenosis, and diffusely
diseased RCA. The RPDA and the OM2/LPL1 are good targets for 
CABG. The heavily calcified LAD
is likely occluded in multiple locations.
2. Normal left ventricular end diastolic pressure in setting of 
known chronic LV systolic heart failure.
3. Tortuous right subclavian artery making catheter manipulation 
challenging.

Cardiac cath ___
Impressions:
1. Successful Impella supported PCI of the Cx with DES.
2. Unsuccessful PCI of the RCA.

L Groin ultrasound ___
No evidence of hematoma or fluid collection.  No pseudoaneurysm. 


Discharge labs:
=================
___ 07:50AM BLOOD WBC-9.3 RBC-3.62* Hgb-11.5* Hct-32.9* 
MCV-91 MCH-31.8 MCHC-35.0 RDW-13.1 RDWSD-42.9 Plt ___
___ 07:50AM BLOOD Glucose-239* UreaN-13 Creat-1.0 Na-141 
K-4.4 Cl-105 HCO3-21* AnGap-19
___ 07:50AM BLOOD Calcium-9.4 Phos-3.1 Mg-1.___ year old male with a history of multivessel CAD (LAD, LCX, 
D1, OM1, RCA; has refused CABG), HTN, DMII, who presented today 
to the ED with new onset chest pain radiating down both arms and 
STEMI on EKG. 

# CORONARIES: The ___ had distal 30% stenosis with origin 90% 
into the Cx which was severely tortuous with retroflexion and an 
S curve into a 70% stenosis into the OM. The LAD was occluded. 
The RCA was diffusely and heavily diseased to 90% and serial 70% 
lesions.

# PUMP: Per TTE ___: regional left ventricular systolic 
dysfunction with hypokinesis to akinesis of the mid septum, mid 
anterior, distal anterior, apical and distal inferior walls and 
hypokinesis of the basal inferior wall. The remaining segments 
contracted well (LVEF = 35-40%). 

# RHYTHM: NSR 

#STEMI: Patient has long history of stable angina and severe 
multivessel disease, for which he has been managed medically and 
has refused intervention. Followed by Dr. ___ as an 
outpatient, who has managed medically and refrained from further 
diagnostic workup ISO of refusal of procedures. Today presented 
with chest pain at rest and ST elevation in aVR, concerning for 
a STEMI in the left main/LAD territory. Symptoms resolved with 
ASA and nitroglycerin, and a repeat EKG showed resolution of ST 
elevations and depressions. First troponin negative. Patient 
still prefers medical management, and so was placed on heparin 
(at 800 units/h) and nitro drip in ED and transferred to floor. 
On home aspirin, statin. Plavix has been held for 4 days ISO 
colonoscopy. Hypertensive in ED and on transfer to floor in the 
setting of missing antihypertensive. On floor, ongoing patient 
initially refusing cath but agreed after extensive discussion 
with his family ___. Cath ___ showing severe calcific three 
vessel coronary artery with a chronically (and likely serially) 
occluded LAD, a doubly retroflexed proximal CX with an ostial 
stenosis. CT Surgery evaluation was subsequently initiated to 
determine potential candidacy for CABG. However, patient did not 
wish to undergo CABG. 

On ___ he underwent successful DES to LCx with impella support. 
Attempted intervention to RCA lesion but c/b dissection so no 
intervention performed to RCA. He had bleeding from L groin 
which resolved overnight. He was initiated on Plavix and 
continued ASA, Atorvastatin, and metoprolol.

#Hypertension: Has been hypertensive to SBPs in the 190s on 
admission, improved to 160/80s without intervention. SBP 
130-140s AM of ___, 110-140s on ___. His home amlodipine and 
losartan, metoprolol were continued.

#Diabetes: hx of DMII, on metformin and glipizide. Continued on 
ISS while in-house 

#CKD: History of CKD with Cr 1.3. Cr 1 on admission. 

TRANSITIONAL ISSUES
===================== 
[] s/p DES to LCx. RCA lesion unable to be stented due to 
dissection. Assess ongoing angina symptoms. Consider repeat cath 
in ___ weeks if still symptomatic on medical mgmt.
[] continue Clopidogrel/ASA ideally for ___ year if tolerating
[] Ensure PCP and cardiology ___ appointments are made. 
Patient/family to make these as clinic was closed during weekend 
discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. amLODIPine 2.5 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Clopidogrel 75 mg PO DAILY 
5. GlipiZIDE 5 mg PO DAILY 
6. Losartan Potassium 50 mg PO DAILY 
7. MetFORMIN (Glucophage) 1000 mg PO BID 
8. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
9. Vitamin D 400 UNIT PO DAILY 
10. Multivitamins 1 TAB PO DAILY 
11. Metoprolol Succinate XL 100 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 2.5 mg PO DAILY  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Clopidogrel 75 mg PO DAILY  
5.  GlipiZIDE 5 mg PO DAILY  
6.  Losartan Potassium 50 mg PO DAILY  
7.  MetFORMIN (Glucophage) 1000 mg PO BID  
8.  Metoprolol Succinate XL 100 mg PO DAILY  
9.  Multivitamins 1 TAB PO DAILY  
10.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
11.  Vitamin D 400 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Myocardial Infarction

Secondary:
Hypertension
Diabetes Mellitus
CKD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___.

You came to the hospital because of chest pain. We found that 
you had blockages in several coronary arteries. You were 
evaluated by the cardiac surgery team for bypass surgery but you 
did not wish to have this. Therefore, we performed stenting of 
one of the arteries in your heart. You had some bleeding in your 
L groin that resolved.

IMPORTANT INSTRUCTIONS:
- ___ with your cardiologist in the next ___ weeks. 
- Continue taking all medications as prescribed.
- It's VERY IMPORTANT to continue taking clopidogrel and aspirin 
every day. These medications are keeping your new stent open. 
You should not stop these medications unless directed by your 
cardiologist. 
- Please watch for warning signs (see below) and if these 
develop call your doctor right away.

It was our pleasure caring for you. We wish you the best!

Sincerely,
Your ___ care team
 
Followup Instructions:
___